US09126998B2
rac-N-(2-Amino-3,3,3-trifluoro-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethyl-imidazo[1,2-a]pyridine-3-carboxamide
118 mg (0.66 mmol) of rac-3,3,3-trifluoro-2-methylpropane-1,2-diamine hydrochloride Example 246A were added to 200 mg (0.60 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid Example 21A, 203 mg (0.63 mmol) of TBTU and 0.27 ml (2.41 mmol) of 4-methylmorpholine in DMF (2.1 ml), and the reaction mixture was stirred at RT overnight. 50 mg (0.28 mmol) of rac-3,3,3-trifluoro-2-methylpropane-1,2-diamine hydrochloride Example 246A were added to the reaction mixture, and stirring was continued at RT overnight. The mixture was diluted with water/TFA and purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 219 mg (79% of theory, purity 99%) of the target compound.

reactant | rac-3,3,3-trifluoro-2-methylpropane-1,2-diamine hydrochloride | 0.66 mmol, 118 mg | Cl.FC(C(CN)(N)C)(F)F
reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.60 mmol, 200 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | TBTU | 0.63 mmol, 203 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 2.41 mmol, 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | rac-3,3,3-trifluoro-2-methylpropane-1,2-diamine hydrochloride | 0.28 mmol, 50 mg | Cl.FC(C(CN)(N)C)(F)F
solvent | DMF | 2.1 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-3,3,3-trifluoro-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethyl-imidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(C(F)(F)F)C | C21H21F5N4O2
